US07459567B2
To a solution of 2-[4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]-N-[imino(1H-pyrazol-1-yl)methyl]acetamide (0.240 g, 0.50 mmol) in CH2Cl2 (5 mL) was added 3-aminopropanol (0.112 g, 0.12 mL, 1.50 mmol) and diisopropyl ethylamine (0.193 g, 0.26 mL, 1.50 mmol). The solution was stirred overnight at RT. The solvent was removed and the product purified by flash chromatography (15:1 CHCl3:MeOH) to yield 2-[4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]-N-[[(3-hydroxypropyl)amino](imino)methyl]acetamide as a white solid. mp 49-50° C.; MS (ES) m/z 486.09 ([M+H]+). MS (ES) m/z 971.26 ([2M+H]+). Anal. Calcd for C25H28ClN3O3S.0.10 C6H14: C, 62.16; H, 5.99; N, 8.49. Found: C, 62.41; H, 5.70; N, 8.45.

reactant | 2-[4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]-N-[imino(1H-pyrazol-1-yl)methyl]acetamide | 0.50 mmol, 0.240 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)NC(N1N=CC=C1)=N | C25H23ClN4O2S
reactant | 3-aminopropanol | 1.50 mmol, 0.12 mL, 0.112 g | NCCCO | C3H9NO
reactant | diisopropyl ethylamine | 1.50 mmol, 0.26 mL, 0.193 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]-N-[[(3-hydroxypropyl)amino](imino)methyl]acetamide | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)NC(=N)NCCCO | C25H28ClN3O3S
